US05767131
N -[3 -(1,2,3,4-Tetrahydroisoquinolin-2-yl)propyl]acetoacetamide.
A suspension of N-(3-bromopropyl)acetoacetamide (4.50 g, 20.3 mmol, 1.00 equiv), 1,2,3,4-tetrahydroisoquinoline (3.30 mL, 26.3 mmol, 1.30 equiv), K2CO3 (3.64 g, 26.3 mmol, 1.30 equiv), and KI (330 mg, 1.99 mmol, 0.10 equiv) in acetone (60 mL) was stirred at reflux for 14 hours. The mixture was cooled to room temperature, filtered, and concentrated. The residue was purified by flash chromatography (SiO2, MeOH--EtOAc 0:1 to 1:9) to give 1.78 g (43%) of light yellow oil, which was characterized spectroscopically. N-(3-Bromopropyl)acetoacetamide (1.20 g) was also recovered.

reactant | N-(3-bromopropyl)acetoacetamide | 20.3 mmol, 4.50 g, 1.00 equiv | BrCCCNC(CC(=O)C)=O | C7H12BrNO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 26.3 mmol, 3.30 mL, 1.30 equiv | C1NCCC2=CC=CC=C12 | C9H11N
reactant | K2CO3 | 26.3 mmol, 3.64 g, 1.30 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | N -[3 -(1,2,3,4-Tetrahydroisoquinolin-2-yl)propyl]acetoacetamide | C1N(CCC2=CC=CC=C12)CCCNC(CC(=O)C)=O | C16H22N2O2
